US07858640B2
[3-(4-ethanesulfonylbenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (0.90 g), 2-(4-ethanesulfonylbenzyl)-3-oxopentanoic acid methyl ester (1.4 g), polyphosphoric acid (10 g) and dioxane (10 mL) was heated at 120° C. for 17 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and the solvent removed under reduced pressure to afford title compound, 1.9 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 0.90 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(4-ethanesulfonylbenzyl)-3-oxopentanoic acid methyl ester | 1.4 g | COC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)CC)=O | C15H20O5S
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [3-(4-ethanesulfonylbenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)S(=O)(=O)CC)=O)=O | C23H24FNO6S
